US09216945B2
5.61 g of 5-chloro-2-nitrobenzyl alcohol is mixed with 9.1 g of triphenylphosphine in 100 ml of dichloromethane. To this solution 6.1 g of N-bromosuccinimide is added portionwise over 5 minutes (to avoid foaming as the reaction warms to ca. 50° C.). After stirring 30 minutes 10 wt % of both triphenylphosphine (900 mg) and N-bromosuccinimide (600 mg) are added. After an additional 30 minutes stirring the reaction mixture is concentrated to approximately 10 ml, poured on a bed of Celite®, and then rinsed through with 0.1% methanol in dichloromethane. Evaporation of the filtrate provides 2.43 g of 5-chloro-2-nitrobenzyl bromide as a light yellow oil. 1H-NMR (500 MHz, CDCl3) δ (ppm) 4.806 (s, 2H), 7.457-7.479 (dd, 1H), 7.589-7.593 (s, 1H), 8.033-8.051 (d, 1H).

reactant | 5-chloro-2-nitrobenzyl alcohol | 5.61 g | ClC=1C=CC(=C(CO)C1)[N+](=O)[O-] | C7H6ClNO3
reactant | triphenylphosphine | 9.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 6.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 900 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 600 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-chloro-2-nitrobenzyl bromide | 2.43 g | ClC=1C=CC(=C(CBr)C1)[N+](=O)[O-] | C7H5BrClNO2
